US05247085
A solution of 9-[3-acetoxy-2-(diethoxyphosphorylmethoxy)propoxy]-6-chloro-2-formamidopurine (0.16 g, 0.33 mmol) in ethanolic ammonia (5 ml) was heated in a sealed vessel at 120° C. for 5 hours. The solution was allowed to cool to ambient temperature and the solvent was removed under reduced pressure to leave a brown residue. The residue was purified by preparative t.l.c. (dichloromethane:methanol 80:20) to give 2,6-diamino-9-[2-(diethoxyphosphorylmethoxy)-3-hydroxypropoxy]purine as a colourless gum (0.065 g). The gum (0.06 g, 0.15 mmol) was dissolved in dry DMF (1 ml) and trimethylsilyl bromide (0.3 ml, 1.53 mmol) added. After 3 hours at ambient temperature, the solvent was removed under reduced pressure and the residue obtained dissolved in 50% aqueous acetone. Evaporation of the solvent gave a solid which after crystallisation from hot water, gave the title compound as a cream solid (0.014 g, 27%). 1H NMR: δH [(CD3) 2 SO] 3.46-3.60 (2H, m, CH2OH), 3.65-3.85 (3H, m, CHOCH2P), 4.24 (1H, m, NOCHB), 4.42 (1H, m, NOCHA), 6.03 (2H, br. s, D2O exchangeable NH2), 6.88 (2H, br. s, D2O exchangeable NH2), 8.02 (1H, s, H-8), 3.3 (br.s, D2O exchangeable OH, PO(OH)2, water in solvent). m/z (FAB, thioglycerol matrix) 335 (MH+, 6%)

reactant | 9-[3-acetoxy-2-(diethoxyphosphorylmethoxy)propoxy]-6-chloro-2-formamidopurine | 0.33 mmol, 0.16 g | C(C)(=O)OCC(CON1C2=NC(=NC(=C2N=C1)Cl)NC=O)OCP(=O)(OCC)OCC | C16H23ClN5O8P
reactant | ammonia | 5 ml | N | H3N
product | 2,6-diamino-9-[2-(diethoxyphosphorylmethoxy)-3-hydroxypropoxy]purine | 0.065 g | NC1=NC(=C2N=CN(C2=N1)OCC(CO)OCP(=O)(OCC)OCC)N | C13H23N6O6P
